US07102046B2
Synthesis of 3,5-bis(trifluoromethyl)cinnamonitrile
0.382 g (7.2 mmol) of acrylonitrile, 38.7 mg (120 μmol) of NBu4Br, 6.7 mg (30 μmol) of palladium acetate and 26.7 mg (120 μmol) of phenyldi(t-butyl)phosphine are weighed into a Schlenk vessel. 1.49 g (6 mmol) of 3,5-bis(trifluoromethyl)chlorobenzene and 1.53 ml (7.2 mmol) of dicyclohexylmethylamine and also 3.5 ml of dimethylacetamide are then added. The Schlenk vessel is placed in a heating bath at 130° C. and the contents are stirred. After 4 hours, the contents are poured into 30 ml of water and the product is extracted by shaking with t-butyl methyl ether. After drying the organic phase over MgSO4, the solvent is removed under reduced pressure and the product is isolated. Orange oil, yield: 69%.

reactant | acrylonitrile | 7.2 mmol, 0.382 g | C(C=C)#N | C3H3N
reactant | phenyldi(t-butyl)phosphine | 120 μmol, 26.7 mg | C1(=CC=CC=C1)P(C(C)(C)C)C(C)(C)C | C14H23P
reactant | 3,5-bis(trifluoromethyl)chlorobenzene | 6 mmol, 1.49 g | FC(C=1C=C(C=C(C1)C(F)(F)F)Cl)(F)F | C8H3ClF6
reactant | dicyclohexylmethylamine | 7.2 mmol, 1.53 ml | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
catalyst | palladium acetate | 30 μmol, 6.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 30 ml | O | H2O
solvent | dimethylacetamide | 3.5 ml | CC(=O)N(C)C | C4H9NO
product | 3,5-bis(trifluoromethyl)cinnamonitrile | yield: 69% | FC(C=1C=C(C=CC#N)C=C(C1)C(F)(F)F)(F)F | C11H5F6N
